//   Beta Version released on 2/22/06
simulator lang=spectre insensitive=yes
 
//  PTM 65nm NMOS 
 
model cmosn bsim4 type=n 
+ version=4.0               binunit=1                 paramchk=1
+ mobmod=0                  capmod=2                  igcmod=1
+ igbmod=1                  geomod=1                  diomod=1
+ rdsmod=0                  rbodymod=1                rgatemod=1
+ permod=1                  acnqsmod=0                trnqsmod=0
+ tnom=27                   toxe=1.85e-9              toxp=1.2e-9
+ toxm=1.85e-9              dtox=0.65e-9              epsrox=3.9
+ wint=5e-009               lint=5.25e-009            ll=0
+ wl=0                      lln=1                     wln=1
+ lw=0                      ww=0                      lwn=1
+ wwn=1                     lwl=0                     wwl=0
+ xpart=0                   toxref=1.85e-9            xl=-30e-9
+ vth0=0.423                k1=0.4                    k2=0.01
+ k3=0                      k3b=0                     w0=2.5e-006
+ dvt0=1                    dvt1=2                    dvt2=-0.032
+ dvt0w=0                   dvt1w=0                   dvt2w=0
+ dsub=0.1                  minv=0.05                 voffl=0
+ dvtp0=1.0e-009            dvtp1=0.1                 lpe0=0
+ lpeb=0                    xj=1.96e-008              ngate=2e+020
+ ndep=2.54e+018            nsd=2e+020                phin=0
+ cdsc=0.000                cdscb=0                   cdscd=0
+ cit=0                     voff=-0.13                nfactor=1.9
+ eta0=0.0058               etab=0                    vfb=-0.55
+ u0=0.0491                 ua=6e-010                 ub=1.2e-018
+ uc=0                      vsat=124340               a0=1.0
+ ags=1e-020                a1=0                      a2=1.0
+ b0=0                      b1=0                      keta=0.04
+ dwg=0                     dwb=0                     pclm=0.04
+ pdiblc1=0.001             pdiblc2=0.001             pdiblcb=-0.005
+ drout=0.5                 pvag=1e-020               delta=0.01
+ pscbe1=8.14e+008          pscbe2=1e-007             fprout=0.2
+ pdits=0.08                pditsd=0.23               pditsl=2.3e+006
+ rsh=5                     rdsw=165                  rsw=85
+ rdw=85                    rdswmin=0                 rdwmin=0
+ rswmin=0                  prwg=0                    prwb=6.8e-011
+ wr=1                      alpha0=0.074              alpha1=0.005
+ beta0=30                  agidl=0.0002              bgidl=2.1e+009
+ cgidl=0.0002              egidl=0.8                 aigbacc=0.012
+ bigbacc=0.0028            cigbacc=0.002             nigbacc=1
+ aigbinv=0.014             bigbinv=0.004             cigbinv=0.004
+ eigbinv=1.1               nigbinv=3                 aigc=0.012
+ bigc=0.0028               cigc=0.002                aigsd=0.012
+ bigsd=0.0028              cigsd=0.002               nigc=1
+ poxedge=1                 pigcd=1                   ntox=1
+ xrcrg1=12                 xrcrg2=5                  cgso=1.5e-010
+ cgdo=1.5e-010             cgbo=2.56e-011            cgdl=2.653e-10
+ cgsl=2.653e-10            ckappas=0.03              ckappad=0.03
+ acde=1                    moin=15                   noff=0.9
+ voffcv=0.02               kt1=-0.11                 kt1l=0
+ kt2=0.022                 ute=-1.5                  ua1=4.31e-009
+ ub1=7.61e-018             uc1=-5.6e-011             prt=0
+ at=33000                  fnoimod=1                 tnoimod=0
+ jss=0.0001                jsws=1e-011               jswgs=1e-010
+ njs=1                     ijthsfwd=0.01             ijthsrev=0.001
+ bvs=10                    xjbvs=1                   jsd=0.0001
+ jswd=1e-011               jswgd=1e-010              njd=1
+ ijthdfwd=0.01             ijthdrev=0.001            bvd=10
+ xjbvd=1                   pbs=1                     cjs=0.0005
+ mjs=0.5                   pbsws=1                   cjsws=5e-010
+ mjsws=0.33                pbswgs=1                  cjswgs=3e-010
+ mjswgs=0.33               pbd=1                     cjd=0.0005
+ mjd=0.5                   pbswd=1                   cjswd=5e-010
+ mjswd=0.33                pbswgd=1                  cjswgd=5e-010
+ mjswgd=0.33               tpb=0.005                 tcj=0.001
+ tpbsw=0.005               tcjsw=0.001               tpbswg=0.005
+ tcjswg=0.001              xtis=3                    xtid=3
+ dmcg=0e-006               dmci=0e-006               dmdg=0e-006
+ dmcgt=0e-007              dwj=0.0e-008              xgw=0e-007
+ xgl=0e-008                rshg=0.4                  gbmin=1e-010
+ rbpb=5                    rbpd=15                   rbps=15
+ rbdb=15                   rbsb=15                   ngcon=1
 
//  PTM 65nm PMOS
 
model cmosp bsim4 type=p 
+ version=4.0               binunit=1                 paramchk=1
+ mobmod=0                  capmod=2                  igcmod=1
+ igbmod=1                  geomod=1                  diomod=1
+ rdsmod=0                  rbodymod=1                rgatemod=1
+ permod=1                  acnqsmod=0                trnqsmod=0
+ tnom=27                   toxe=1.95e-009            toxp=1.2e-009
+ toxm=1.95e-009            dtox=0.75e-9              epsrox=3.9
+ wint=5e-009               lint=5.25e-009            ll=0
+ wl=0                      lln=1                     wln=1
+ lw=0                      ww=0                      lwn=1
+ wwn=1                     lwl=0                     wwl=0
+ xpart=0                   toxref=1.95e-009          xl=-30e-9
+ vth0=-0.365               k1=0.4                    k2=-0.01
+ k3=0                      k3b=0                     w0=2.5e-006
+ dvt0=1                    dvt1=2                    dvt2=-0.032
+ dvt0w=0                   dvt1w=0                   dvt2w=0
+ dsub=0.1                  minv=0.05                 voffl=0
+ dvtp0=1e-009              dvtp1=0.05                lpe0=0
+ lpeb=0                    xj=1.96e-008              ngate=2e+020
+ ndep=1.87e+018            nsd=2e+020                phin=0
+ cdsc=0.000                cdscb=0                   cdscd=0
+ cit=0                     voff=-0.126               nfactor=1.9
+ eta0=0.0058               etab=0                    vfb=0.55
+ u0=0.00574                ua=2.0e-009               ub=0.5e-018
+ uc=0                      vsat=70000                a0=1.0
+ ags=1e-020                a1=0                      a2=1
+ b0=-1e-020                b1=0                      keta=-0.047
+ dwg=0                     dwb=0                     pclm=0.12
+ pdiblc1=0.001             pdiblc2=0.001             pdiblcb=3.4e-008
+ drout=0.56                pvag=1e-020               delta=0.01
+ pscbe1=8.14e+008          pscbe2=9.58e-007          fprout=0.2
+ pdits=0.08                pditsd=0.23               pditsl=2.3e+006
+ rsh=5                     rdsw=165                  rsw=85
+ rdw=85                    rdswmin=0                 rdwmin=0
+ rswmin=0                  prwg=3.22e-008            prwb=6.8e-011
+ wr=1                      alpha0=0.074              alpha1=0.005
+ beta0=30                  agidl=0.0002              bgidl=2.1e+009
+ cgidl=0.0002              egidl=0.8                 aigbacc=0.012
+ bigbacc=0.0028            cigbacc=0.002             nigbacc=1
+ aigbinv=0.014             bigbinv=0.004             cigbinv=0.004
+ eigbinv=1.1               nigbinv=3                 aigc=0.69
+ bigc=0.0012               cigc=0.0008               aigsd=0.0087
+ bigsd=0.0012              cigsd=0.0008              nigc=1
+ poxedge=1                 pigcd=1                   ntox=1
+ xrcrg1=12                 xrcrg2=5                  cgso=1.5e-010
+ cgdo=1.5e-010             cgbo=2.56e-011            cgdl=2.653e-10
+ cgsl=2.653e-10            ckappas=0.03              ckappad=0.03
+ acde=1                    moin=15                   noff=0.9
+ voffcv=0.02               kt1=-0.11                 kt1l=0
+ kt2=0.022                 ute=-1.5                  ua1=4.31e-009
+ ub1=7.61e-018             uc1=-5.6e-011             prt=0
+ at=33000                  fnoimod=1                 tnoimod=0
+ jss=0.0001                jsws=1e-011               jswgs=1e-010
+ njs=1                     ijthsfwd=0.01             ijthsrev=0.001
+ bvs=10                    xjbvs=1                   jsd=0.0001
+ jswd=1e-011               jswgd=1e-010              njd=1
+ ijthdfwd=0.01             ijthdrev=0.001            bvd=10
+ xjbvd=1                   pbs=1                     cjs=0.0005
+ mjs=0.5                   pbsws=1                   cjsws=5e-010
+ mjsws=0.33                pbswgs=1                  cjswgs=3e-010
+ mjswgs=0.33               pbd=1                     cjd=0.0005
+ mjd=0.5                   pbswd=1                   cjswd=5e-010
+ mjswd=0.33                pbswgd=1                  cjswgd=5e-010
+ mjswgd=0.33               tpb=0.005                 tcj=0.001
+ tpbsw=0.005               tcjsw=0.001               tpbswg=0.005
+ tcjswg=0.001              xtis=3                    xtid=3
+ dmcg=0e-006               dmci=0e-006               dmdg=0e-006
+ dmcgt=0e-007              dwj=0.0e-008              xgw=0e-007
+ xgl=0e-008                rshg=0.4                  gbmin=1e-010
+ rbpb=5                    rbpd=15                   rbps=15
+ rbdb=15                   rbsb=15                   ngcon=1
 
 

parameters  lambda = 0.035u
parameters  vdd_tech=1.0
 

//multiplication factor for Pmos transistor widths
parameters p_mult=2.0
 
